US09238644B2
(b) tert-Butyl 4-((4-((2-(1-amino-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazole-1-carboxylate (A62)
A degassed mixture of tert-butyl 4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazole-1-carboxylate A61 (0.373 g, 1.03 mmol), 2-(2-ethynylphenyl)propanamide K7 (0.452 g, 2.40 mmol), PdCl2(PPh3)2 (0.015 g, 0.02 mmol), t-Bu3PH.BF4 (0.011 g, 0.038 mmol) and CuI (0.007 g, 0.04 mmol) in 1,4-dioxane (6.0 mL) and DIPEA (0.90 mL, 5.2 mmol) was heated in the microwave at 100° C. for 30 minutes. The mixture was concentrated under reduced pressure and purified using silica gel column chromatography (0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A62 (0.309 g, 58%). LCMS-D: rt 3.533 min; m/z 502.2 499.2 [M−H]−.

reactant | tert-butyl 4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazole-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NN(C1)C(=O)OC(C)(C)C | C13H13ClF3N5O2
reactant | 2-(2-ethynylphenyl)propanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)C | C11H11NO
reactant | BF4 | 0.038 mmol, 0.011 g | F[B-](F)(F)F
reactant | DIPEA | 5.2 mmol, 0.90 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.02 mmol, 0.015 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.04 mmol, 0.007 g | [Cu]I
product | tert-Butyl 4-((4-((2-(1-amino-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-1H-pyrazole-1-carboxylate | NC(C(C)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC=1C=NN(C1)C(=O)OC(C)(C)C)=O | C24H23F3N6O3
